US04721791
3-Methyl-5-(trichlorovinyl)Aniline
To a warm solution of 3-(trichlorovinyl)-5-nitrotoluene (10.95 g) in 150 ml of ethanol, an aqueous solution of ammonium sulfide (30 ml of a commercial 46-52% aqueous solution diluted to 90 ml with water) was added in one portion. The resulting heterogeneous solution was heated in a 100° C. oil bath for 30 minutes. The hot reaction mixture was filtered and the precipitate thoroughly washed with ethanol. The filtrate was diluted with 1.2 L of brine and then extracted with methylene chloride (2×400 ml). The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate. Concentration afforded 9.36 g of an oil.

reactant | 3-(trichlorovinyl)-5-nitrotoluene | 10.95 g | ClC(=C(Cl)Cl)C=1C=C(C=C(C1)[N+](=O)[O-])C | C9H6Cl3NO2
reactant | ammonium sulfide | [NH4+]=S
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Methyl-5-(trichlorovinyl)Aniline | 9.36 g | CC=1C=C(N)C=C(C1)C(=C(Cl)Cl)Cl | C9H8Cl3N
